US07256170B2
i) Mixture of 2,6,8 and 2,7,9-trimethylspiro[4,5]dec-7-en-1-one
N-Butyllithium (1.6 M in hexanes, 172 ml, 0.275 mol) was added to a solution of diisopropylamine (30.4 g, 0.3 mol) in THF (300 ml), while maintaining the internal temperature around −40° C. Then DMPU (1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone) (38.4 g, 0.3 mol) was added, followed, after 15 minutes, by a mixture of 6,8 and 7,9-dimethylspiro[4,5]dec-7-en-1-one (44.74 g, 0.25 mol) in THF (50 ml) in 30 minutes. After stirring for 30 more minutes, methyl iodide (106 g, 0.75 mol) was added rapidly. After 15 minutes, the reaction was quickly warmed up to 0° C. Acetic acid (18.6 g, 0.31 mol) was added and the reaction warmed up to room temperature. The reaction was quenched with water (500 ml) and extracted twice with pentane. Each organic fraction was treated successively with water, aqueous NaHSO3, aqueous saturated NaHCO3, and brine. Combined organic fractions were dried over Na2SO4. The liquid obtained after filtration and evaporation of solvents was purified by bulb to bulb distillation (B.p.=105° C./0.47 mbar). The title product was obtained as a colorless liquid (42.85 g, yield=89%), as a mixture of isomers.

reactant | N-Butyllithium | 0.275 mol, 1.6 M, 172 ml | [Li+].CCC[CH2-]
reactant | diisopropylamine | 0.3 mol, 30.4 g | C(C)(C)NC(C)C | C6H15N
reactant | DMPU | 0.3 mol, 38.4 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | 7,9-dimethylspiro[4,5]dec-7-en-1-one | 0.25 mol, 44.74 g | CC=1CC2(CCCC2=O)CC(C1)C | C12H18O
reactant | methyl iodide | 0.75 mol, 106 g | CI | CH3I
reactant | Acetic acid | 0.31 mol, 18.6 g | C(C)(=O)O | C2H4O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2,7,9-trimethylspiro[4,5]dec-7-en-1-one | CC1C(C2(CC1)CC(=CC(C2)C)C)=O | C13H20O
